US06251921B1
Preparation of 1-[2-[4-[3-[4-[3-(1-Pyrrolidinyl)-1-propynyl]benzyl]benzo[b]thiophen-2-yl]phenoxy]ethyl]pyrrolidine Dioxalate
A slurry of 4-iodobenzoic acid (7.67 g, 30.9 mmol) in 300 mL of 1,2-dichloroethane and 2 drops of DMF was treated with SOCl2 (11.3 mL, 154.6 mmol). The resulting mixture was heated at reflux overnight. The clear solution was evaporated in vacuo, then the solid residue was resuspended in 1,2-dichloroethane and reconcentrated. The crude acid chloride was dissolved in 300 mL of 1,2-dichloroethane, and 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (5.0 g, 15.5 mmol) was added. The solution was cooled to 0° C. and treated with TiCl4 (8.5 mL, 77.3 mmol). After 5.5 h, the reaction mixture was carefully poured into 600 mL of saturated aqueous NaHCO3. The layers were separated, and the aqueous phase was extracted with CHCl3 (3×300 mL). The combined organic phases were dried over Na2SO4, filtered, and concentrated in vacuo. Purification by PrepLC (SiO2; 1% MeOH in CHCl3, saturated with NH4OH) afforded 6.79 g (12.3 mmol; 79%) of the title product as a yellow foam.

reactant | 4-iodobenzoic acid | 30.9 mmol, 7.67 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | SOCl2 | 154.6 mmol, 11.3 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 15.5 mmol, 5.0 g | N1(CCCC1)CCOC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C20H21NOS
reactant | NaHCO3 | 600 mL | C(=O)(O)[O-].[Na+]
reactant | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | TiCl4 | 77.3 mmol, 8.5 mL | Cl[Ti](Cl)(Cl)Cl
product | 1-[2-[4-[3-[4-[3-(1-Pyrrolidinyl)-1-propynyl]benzyl]benzo[b]thiophen-2-yl]phenoxy]ethyl]pyrrolidine Dioxalate | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(CCCC1)CC#CC1=CC=C(CC=2C3=C(SC2C2=CC=C(OCCN4CCCC4)C=C2)C=CC=C3)C=C1 | InChI=1S/C34H36N2OS.2C2H2O4/c1-2-10-33-31(9-1)32(26-28-13-11-27(12-14-28)8-7-23-35-19-3-4-20-35)34(38-33)29-15-17-30(18-16-29)37-25-24-36-21-5-6-22-36;2*3-1(4)2(5)6/h1-2,9-18H,3-6,19-26H2;2*(H,3,4)(H,5,6)
